US05389640
4-Chloro-α,α-dimethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol
3-Amino-2-chloro-4-(2-hydroxy-2-methylpropylamino)quinoline (2.0 g, 7.5 mmol) was combined with acetonitrile (80 mL). Ethoxyacetyl chloride (0.92 g, 7.5 mmol) was added to the reaction mixture. After about 5 minutes a yellow precipitate formed. p-Toluenesulfonic acid (0.1 g) was added and the reaction mixture was heated to reflux. Refluxing was continued for about 120 hours at which time the reaction mixture was homogeneous. The reaction mixture was cooled and the acetonitrile was removed under vacuum. The resulting residue was dissolved in methylene chloride and washed with dilute ammonium hydroxide. The aqueous phase was extracted with methylene chloride (3×25 mL). The organic phases were combined, dried over magnesium sulfate and then concentrated to provide 2.6 g of crude product as a dark yellow solid. The crude product was recrystallized from t-butylmethyl ether to provide 1.8 g of a solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 3-Amino-2-chloro-4-(2-hydroxy-2-methylpropylamino)quinoline | 7.5 mmol, 2.0 g | NC=1C(=NC2=CC=CC=C2C1NCC(C)(C)O)Cl | C13H16ClN3O
reactant | Ethoxyacetyl chloride | 7.5 mmol, 0.92 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | p-Toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 4-Chloro-α,α-dimethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 1.8 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC(O)(C)C)COCC | C17H20ClN3O2
